US07304081B2
1-{[1-(4-Chlorophenyl)cyclopropyl]carbonyl}-3-phenylpyrrolidine-3,4-diol
To a solution of 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-3-phenyl-2,5-dihydro-1H-pyrrole (80 mg, 0.0002 mol, prepared using a procedure analogous to that described in example 1) in acetone (500 μL, 0.007 mol), water (1250 μL, 0.0694 mol), and tert-butyl alcohol (250 μL, 0.0026 mol), was added osmium tetraoxide (80 mg, 0.00001 mol) followed by 4-methylmorpholine 4-oxide (29 mg, 0.00025 mol). The mixture was heated at 70° C. for 1 hour. After cooling, it was filtered and the filtrate was purified with prep-HPLC to afford the product (36.5 mg). LCMS: m/z 358.0 (M+H)+; 379.9 (M+Na+).

reactant | 1-{[1-(4-chlorophenyl)cyclopropyl]carbonyl}-3-phenyl-2,5-dihydro-1H-pyrrole | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(=CC1)C1=CC=CC=C1 | C20H18ClNO
reactant | acetone | 0.007 mol, 500 μL | CC(=O)C | C3H6O
reactant | water | 0.0694 mol, 1250 μL | O | H2O
reactant | tert-butyl alcohol | 0.0026 mol, 250 μL | C(C)(C)(C)O | C4H10O
reactant | 4-methylmorpholine 4-oxide | 0.00025 mol, 29 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
catalyst | osmium tetraoxide | 0.00001 mol, 80 mg | [Os](=O)(=O)(=O)=O
product | 1-{[1-(4-Chlorophenyl)cyclopropyl]carbonyl}-3-phenylpyrrolidine-3,4-diol | 36.5 mg | ClC1=CC=C(C=C1)C1(CC1)C(=O)N1CC(C(C1)O)(O)C1=CC=CC=C1 | C20H20ClNO3
